US05750531
Synthesis of (S)-5,6-dimethyl-4-(N-methylphenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.6 ml, 5 mmol) was added to a mixture solution of (S)-5,6-dimethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(0.7 g, 2.4 mmol) prepared in the Step 2 of Example 62 and dimethylformamide(10 ml), 0.42 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | N-methylaniline | 5 mmol, 0.6 ml | CNC1=CC=CC=C1 | C7H9N
reactant | (S)-5,6-dimethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 2.4 mmol, 0.7 g | CC=1C(=NC(=NC1C)N1[C@H](C2=CC=CC=C2CC1)C)Cl | C16H18ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-5,6-dimethyl-4-(N-methylphenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.42 g, Yield: 44.4% | Cl.CC=1C(=NC(=NC1C)N1[C@H](C2=CC=CC=C2CC1)C)N(C)C1=CC=CC=C1 | InChI=1S/C23H26N4.ClH/c1-16-17(2)24-23(25-22(16)26(4)20-11-6-5-7-12-20)27-15-14-19-10-8-9-13-21(19)18(27)3;/h5-13,18H,14-15H2,1-4H3;1H/t18-;/m0./s1
